US06239131B1
Preparation of 1-cyclohexylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Bromomethylcyclohexylketone (861 mg), potassium iodide (23 mg), tetra n-butylammonium bromide (27 mg) and potassium carbonate (464 mg) were added to a solution of 2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1 g) in dimethylsulfoxide (10 ml), the mixture was stirred overnight at room temperature. Ice-water was added to the reaction mixture, extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography(ethyl acetate:n-hexane=1:5) and subsequently purified by silica gel column chromatography(silica gel NH-DM1020, produced by Fujisilicia Co. Ltd., ethyl acetate:n-hexane=1:5), to thereby obtain 500 mg of the title compound.

reactant | Bromomethylcyclohexylketone | 861 mg | BrCC(=O)C1CCCCC1 | C8H13BrO
reactant | potassium iodide | 23 mg | [I-].[K+]
reactant | potassium carbonate | 464 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1 g | O=C1C(CN(C2=C(N1)C=CC=C2)C2CCCCC2)NC(=O)OC(C)(C)C | C20H29N3O3
catalyst | tetra n-butylammonium bromide | 27 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 1-cyclohexylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 500 mg | C1(CCCCC1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)OC(C)(C)C)=O | C28H41N3O4
